US08283354B2
Under an N2 atmosphere, 2-(2-fluoro-6-methoxyphenyl)-7-methylquinazolin-4(3H)-one (20 g, 70.35 mmol) was suspended in benzene (300 mL), followed by the addition of N,N-dimethylaniline (26.8 mL, 211.05 mmol), then POCl3 (13.11 mL, 140.7 mmol). The reaction was heated at reflux, and completion of product formation was observed after 1.5 h. After cooling to room temperature, the mixture was slowly poured over 1 liter of ice. The solution was then diluted with CH2Cl2, and the pH was adjusted to 7 using a saturated aqueous NaHCO3 solution. The layers were partitioned, separated and extracted with CH2Cl2. All organic layers were combined, dried over Na2SO4, filtered, and concentrated to a dark oil. The crude material was purified by silica gel chromatography using 75% CH2Cl2/25% hexanes to obtain 4-chloro-2-(2-fluoro-6-methoxyphenyl)-7-methylquinazoline as a yellow solid (18.82 g, 88%). LC/MS: m/z 302.9 (M+H)+ at 3.28 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, CDCl3) δ 8.22 (d, J=8.5 Hz, 1H), 7.95 (s, 1H), 7.60 (dd, J=8.6, 1.5 Hz, 1H), 7.42-7.40 (m, 1H), 6.86-6.84 (m, 2H), 3.81 (s, 3H), 2.64 (s, 3H)

reactant | 2-(2-fluoro-6-methoxyphenyl)-7-methylquinazolin-4(3H)-one | 70.35 mmol, 20 g | FC1=C(C(=CC=C1)OC)C1=NC2=CC(=CC=C2C(N1)=O)C | C16H13FN2O2
reactant | N,N-dimethylaniline | 211.05 mmol, 26.8 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 140.7 mmol, 13.11 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-(2-fluoro-6-methoxyphenyl)-7-methylquinazoline | 18.82 g, 88% | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1OC)F | C16H12ClFN2O
